US06559313B2
Step (1)20g (232 mmol) of (3S)-(−)-3 aminopyrrolidine and 26 mL (255 mmol, 1.1 eq) benzaldehyde are combined in 250 mL toluene and refluxed, removing water with a Dean-Stark trap, for about 4.5 hours. The mixture is cooled to 0° C. and 55.7g (255.2 mmol, 1.1 eq) di-tert-butyl dicarbonate added, then stirred at room temperature. The mixture is concentrated in vacuo, stirred with KHSO4 solution, extracted 3 times with ether. The aqueous layer is made alkaline and extracted with CH2Cl2. The organic layer is washed with brine and dried over MgSO4, filtered, and evaporated in vacuo to give N1-BOC-(3S)-(−)-3 aminopyrrolidine.

reactant | (3S)-(−)-3 aminopyrrolidine | 232 mmol | N[C@@H]1CNCC1 | C4H10N2
reactant | benzaldehyde | 255 mmol, 26 mL, 1.1 eq | C(C1=CC=CC=C1)=O | C7H6O
reactant | di-tert-butyl dicarbonate | 255.2 mmol, 55.7g, 1.1 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | N1-BOC-(3S)-(−)-3 aminopyrrolidine | C(=O)(OC(C)(C)C)N1C[C@H](CC1)N | C9H18N2O2
